US08198299B2
To the mixture of methyl 4-(4-(thiazol-2-yl)-tetrahydro-2H-pyran-4-yl)benzoate (570 mg, 1.88 mmol) in DMF (5 mL) was added a 1M solution of bromine in DMF (1.9 mL, 1.88 mmol). After 2 hours, additional 1M solution of bromine in DMF (1.9 mL, 1.88 mmol) was added. The reaction mixture was then concentrated to half its volume and poured into water (25 mL). The resulting solid was filtered and washed with water and dried to give methyl 4-(4-(5-bromothiazol-2-yl)-tetrahydro-2H-pyran-4-yl)benzoate. 1H NMR (400 MHz, dmso-d6): δ 7.99 (d, J=8.0 Hz, 2H); 7.58 (s, 1H); 7.41 (d, J=8.0 Hz, 2H); 3.87 (s, 3H); 3.91-3.84 (m, 2H); 3.73-3.68 (m, 2H); 2.63-2.59 (m, 2H); 2.41-2.37 (m, 2H); MS found for C16H16BrNO3S (m/z): 3840.3 [M++1].

reactant | methyl 4-(4-(thiazol-2-yl)-tetrahydro-2H-pyran-4-yl)benzoate | 1.88 mmol, 570 mg | S1C(=NC=C1)C1(CCOCC1)C1=CC=C(C(=O)OC)C=C1 | C16H17NO3S
reactant | bromine | BrBr | Br2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.88 mmol, 1.9 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.88 mmol, 1.9 mL | CN(C)C=O | C3H7NO
product | methyl 4-(4-(5-bromothiazol-2-yl)-tetrahydro-2H-pyran-4-yl)benzoate | BrC1=CN=C(S1)C1(CCOCC1)C1=CC=C(C(=O)OC)C=C1 | C16H16BrNO3S
